US04083983
4-Nitro-3-methoxy-2-methylpyridine N-oxide is heated in acetic anhydride and the purified product is deacetylated and reduced with hydrogen and palladium on charcoal to give 4-amino-2-hydroxymethyl-3-methoxypyridine.

reactant | 4-Nitro-3-methoxy-2-methylpyridine N-oxide | [N+](=O)([O-])C1=C(C(=[N+](C=C1)[O-])C)OC | C7H8N2O4
reactant | hydrogen | [H][H] | H2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
catalyst | palladium on charcoal | [Pd] | Pd
product | 4-amino-2-hydroxymethyl-3-methoxypyridine | NC1=C(C(=NC=C1)CO)OC | C7H10N2O2
